US07615672B2
To a 2 L two-necked round bottom flask equipped with water condenser, calcium chloride guard tube and mechanical stirrer, 100 g of 2,4-pentanedione, 600 g of 1-bromooctadecane, 10 g of 18-crown-6, anhydrous potassium carbonate 125 g and 550 ml of absolute ethanol were added with stirring. The mixture was refluxed at 95° C. with continuous stirring for 24 hrs, after refluxing at the said temperature, the mixture was cooled to ambient temperature (25° C.), 550 ml of water was added to it and the 2-heneicosanone was extracted with dichloromethane from the mixture. On distillation of dichloromethane, 2-heneicosanone was obtained.

reactant | 2,4-pentanedione | 100 g | CC(CC(C)=O)=O | C5H8O2
reactant | 1-bromooctadecane | 600 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | 18-crown-6 | 10 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 125 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 550 ml | O | H2O
solvent | ethanol | 550 ml | C(C)O | C2H6O
product | 2-heneicosanone | yield was >95% | CC(CCCCCCCCCCCCCCCCCCC)=O | C21H42O
